US08022068B2
c) [(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid hydrazide
A solution of 1 mmol of N′-{2-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetyl}-hydrazinecarboxylic acid tert-butyl ester in 13 ml of CH2Cl2 is treated at 0° C. with 3.3 ml of trifluoroacetic acid. The reaction mixture is stirred at 0° C. for 1 h, then at RT for 3 h and diluted with CH2Cl2, basified with saturated aqueous NaHCO3. The aqueous layer is extracted with CH2Cl2 (2×), the combined organic extracts are washed with H2O, then with brine, dried over Na2SO4, and concentrated under reduced pressure, affording the title compound as an orange oil. Rf=0.45 (CH2Cl2/MeOH/25% conc. NH3 200:20:1); Rt=4.57 (gradient I).

reactant | N′-{2-[(2R,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetyl}-hydrazinecarboxylic acid tert-butyl ester | 1 mmol | C(C)(C)(C)OC(=O)NNC(C[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C44H62N4O10S
reactant | trifluoroacetic acid | 3.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 13 ml | C(Cl)Cl | CH2Cl2
product | [(2R,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetic acid hydrazide | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)NN)C | C39H54N4O8S
